US04187216
1.75 g (0.00502 mol) of L-alanyl-L-proline cyclohexylamide hydrobromide were dissolved in 30 ml of dry pyridine and 1.3 ml (0.01 mol) of propionic anhydride were added. The solution was stirred at room temperature for 2 hours and then evaporated. Final traces of pyridine were removed by addition of 15 ml of toluene and re-evaporation. The residue was dissolved in 80 ml of chloroform and the solution washed with two 50 ml portions of water, dried over magnesium sulphate and evaporated to a white solid which was recrystallised from ethyl acetate to give 1.05 g (65%) of N-propionyl-L-alanyl-L-proline cyclohexylamide of melting point 172°-174° C.; [α]D20 =-125.1° (c=0.991% in methanol).

reactant | L-alanyl-L-proline cyclohexylamide hydrobromide | 0.00502 mol, 1.75 g | Br.C1(CCCCC1)NC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O
reactant | propionic anhydride | 0.01 mol, 1.3 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-propionyl-L-alanyl-L-proline cyclohexylamide | 1.05 g, 65% | C1(CCCCC1)NC([C@H]1N(CCC1)C([C@@H](NC(CC)=O)C)=O)=O | C17H29N3O3
